US08309577B2
Step A: N-(3-Chlorobenzyl)-2,2-diethoxyacetimidamide
In a nitrogen-flushed sealed tube was placed methyl 2,2-diethoxyacetimidate (2 g, 12.41 mmol) in methanol (6 mL) and (3-chlorophenyl)methanamine (1.444 mL, 11.82 mmol). The tube was capped and heated to 70° C. After 18 hours, the reaction was cooled to room temperature and the reaction was concentrated to yield N-(3-chlorobenzyl)-2,2-diethoxyacetimidamidea (2.3 grams, 8.5 mmol, 71%) as a yellow oil.

reactant | methyl 2,2-diethoxyacetimidate | 12.41 mmol, 2 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | (3-chlorophenyl)methanamine | 11.82 mmol, 1.444 mL | ClC=1C=C(C=CC1)CN | C7H8ClN
solvent | methanol | 6 mL | CO | CH4O
product | N-(3-Chlorobenzyl)-2,2-diethoxyacetimidamide | ClC=1C=C(CNC(C(OCC)OCC)=N)C=CC1 | C13H19ClN2O2
